US07935832B2
A solution of ethyl 2-ethyl-3-oxo-2,3-dihydro-1H-isoindole-1-carboxylate (0.283 g, 1.2 mmol) in ethanol (6 ml) and water (6 ml) was treated with 2M aqueous sodium hydroxide solution (0.6 ml) and stirred at 20° C. for 1.5 hrs. Starting material was still evident at this stage so a further aliquot of 2M aqueous sodium hydroxide solution (0.8 ml) was added and stirring continued for a further 4 hrs. The mixture was evaporated to remove the ethanol and the aqueous residue was diluted with water (40 ml), washed with diethyl ether (25 ml), then acidified to pH2 using 2M aqueous hydrogen chloride, and extracted with dichloromethane (4×25 ml). The organic extracts were combined, filtered through a hydrophobic frit, and evaporated to give 2-ethyl-3-oxo-2,3-dihydro-1H-isoindole-1-carboxylic acid as a white solid (0.255 g) which was used without further purification.

reactant | ethyl 2-ethyl-3-oxo-2,3-dihydro-1H-isoindole-1-carboxylate | 1.2 mmol, 0.283 g | C(C)N1C(C2=CC=CC=C2C1=O)C(=O)OCC | C13H15NO3
reactant | sodium hydroxide | 2M, 0.6 ml | [OH-].[Na+]
reactant | sodium hydroxide | 2M, 0.8 ml | [OH-].[Na+]
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | water | 6 ml | O | H2O
product | 2-ethyl-3-oxo-2,3-dihydro-1H-isoindole-1-carboxylic acid | 0.255 g | C(C)N1C(C2=CC=CC=C2C1=O)C(=O)O | C11H11NO3
